US03967962
Amorphous poly (2-methyl-2 -ethyl-1,3-propylene sebacate) was prepared by reacting sebacic acid and a 10 mole % excess of 2-methyl-2-ethyl-1,3-propylene glycol in the presence of 0.5 weight % p-toluenesulfonic acid in the same manner as in Example 1. On cooling to room temperature after the polymerization, the poly (MEPS) remained as a clear, tacky fluid. Analysis indicates it has an acid number of 2.40, an hydroxyl number of 19.4, an Mn of 5150 g/mole, an MWD of 1.87 by GPC in chloroform, and a glass transition temperature of about -61°C.

reactant | sebacic acid | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | 2-methyl-2-ethyl-1,3-propylene glycol | CC(CO)(CO)CC | C6H14O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-2 -ethyl-1,3-propylene sebacate | C1(CCCCCCCCC(=O)OCC(CO1)(CC)C)=O | C16H28O4
